US09403827B2
Step 10.1: 5-(Dimethylcarbamoyl)-2-methoxyphenylboronic acid
To a solution of 700 mg (3.57 mmol) 3-borono-4-methoxybenzoic acid in 23 ml DMF, 3.6 ml (7.14 mmol) dimethylamine, 1.5 g (3.93 mmol) HATU and 1.57 ml (14.29 mmol) NMM were added and stirred at RT for 2 hours. The reaction mixture was extracted with EtOAc and water. The organic phase was dried over Na2SO4, filtered and evaporated. The residue was purified by preparative HPLC (Prep. HPLC method 1, gradient: 15-30% in 16 minutes). The fractions containing product were combined and extracted twice with EtOAc. The combined organic phases were dried over Na2SO4, filtered and evaporated to afford 361 mg (1.619 mmol, 45.3% yield) of the title compound as a colorless solid. LCMS: (M+H)=224; tR=0.54 min (LC-MS 4). 1H-NMR (d6-DMSO, 400 MHz) δ ppm 7.56 (m, 1H) 7.44 (dd, 1H) 6.99 (d, 1H) 3.81 (s, 3H) 2.93 (s, 6H).

reactant | 3-borono-4-methoxybenzoic acid | 3.57 mmol, 700 mg | B(O)(O)C=1C=C(C(=O)O)C=CC1OC | C8H9BO5
reactant | dimethylamine | 7.14 mmol, 3.6 ml | CNC | C2H7N
reactant | HATU | 3.93 mmol, 1.5 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | NMM | 14.29 mmol, 1.57 ml | CN1CCOCC1 | C5H11NO
solvent | DMF | 23 ml | CN(C)C=O | C3H7NO
product | 5-(Dimethylcarbamoyl)-2-methoxyphenylboronic acid | 1.619 mmol, 361 mg, 45.3% yield | CN(C(=O)C=1C=CC(=C(C1)B(O)O)OC)C | C10H14BNO4
